US05976759
Using 48.6 g (0.3 mol) of p-acetyloxystyrene, 17.6 g (0.1 mol) of p-tert-butoxystyrene and a catalytic amount of 2,2'-azobis(2-methylisovaleronitrile), the procedure of (1) of Preparation Example 3 was carried out for reaction and after-treatments to obtain 59.7 g of poly(p-tert-butoxystyrene/p-acetyloxystyrene) as white powdery crystal. P-acetyoxystyrene unit/p-tert-butoxystyrene unit molar ratio in the polymer≈3:1 (1NMR). Mw≈10,500; Mw/Mn=1.32 (GPC with polystyrene calibration).

reactant | p-acetyloxystyrene | 0.3 mol, 48.6 g | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | p-tert-butoxystyrene | 0.1 mol, 17.6 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | 2,2'-azobis(2-methylisovaleronitrile) | N(=NC(C#N)(C(C)C)C)C(C#N)(C(C)C)C | C12H20N4
product | p-tert-butoxystyrene p-acetyloxystyrene | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C(C)(=O)OC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O.C10H10O2/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-3-9-4-6-10(7-5-9)12-8(2)11/h5-9H,1H2,2-4H3;3-7H,1H2,2H3
